US08003647B2
4-Benzyloxy-3-methoxybenzaldehyde (4.85 g) was added to nitric acid (d=1.42, 20 mL) in a dropwise manner over 1 hour at room temperature, and this mixture was stirred for 1 hour. This reaction mixture was poured into ice water and the precipitated solid was collected by filtration. This solid was washed with water, dried under reduced pressure at 50° C. to give 4-benzyloxy-5-methoxy-2-nitrobenzaldehyde (4.99 g). To this product was added acetic acid (50 mL), followed by adding nitromethane (3.19 g) and ammonium acetate (5.36 g), and this mixture was stirred for 5 hours at 100° C. This reaction mixture was concentrated under reduced pressure. To this residue was added water and the precipitated solid was collected by filtration, and this solid was washed with methanol, dried to give 1-benzyloxy-2-methoxy-5-nitro-4-(2-nitrovinyl)benzene (4.03 g). To this compound were added benzene (96 mL), acetic acid (72 mL) and cyclohexane (24 mL), followed by adding silica gel (18 g) and iron powder (10.2 g), and this mixture was stirred at 100° C. for 1 hour. The insoluble material was removed by filtration, and this filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=75/25) to give the title compound (1.06 g).

reactant | 4-Benzyloxy-3-methoxybenzaldehyde | 4.85 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | nitric acid | 20 mL | [N+](=O)(O)[O-] | HNO3
product | 4-benzyloxy-5-methoxy-2-nitrobenzaldehyde | 4.99 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1OC)[N+](=O)[O-] | C15H13NO5
